US08835472B2
N-(1-(4-((4-(piperidine-1-carbonyl)phenyl)ethynyl)phenyl)propan-2-yl)acetamide
To 30 mg (0.10 mmol) 4-((4-(2-acetamidopropyl)phenyl)ethynyl)benzoic acid (I72.2) in 1 mL DMF are added 20.0 μl (0.10 mmol) TEA and 50 mg (0.15 mmol) TBTU. The mixture is stirred at r.t. for 5 min before it is added to 10 mg (0.12 mmol) piperidine in 500 μl DMF. After stirring at r.t. for 72 h the mixture is purified by HPLC (MeOH/H2O/NH3).

reactant | 4-((4-(2-acetamidopropyl)phenyl)ethynyl)benzoic acid | 0.10 mmol, 30 mg | C(C)(=O)NC(CC1=CC=C(C=C1)C#CC1=CC=C(C(=O)O)C=C1)C | C20H19NO3
reactant | TBTU | 0.15 mmol, 50 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | piperidine | 0.12 mmol, 10 mg | N1CCCCC1 | C5H11N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 500 μl | CN(C)C=O | C3H7NO
product | N-(1-(4-((4-(piperidine-1-carbonyl)phenyl)ethynyl)phenyl)propan-2-yl)acetamide | N1(CCCCC1)C(=O)C1=CC=C(C=C1)C#CC1=CC=C(C=C1)CC(C)NC(C)=O | C25H28N2O2
